US04957928
First, at room temperature and while stirring, 2.2 g (16.5 mmol) of aluminium chloride in 70 ml of absolute diethyl ether are added dropwise to a suspension of 3.8 g (100 mmol) of lithium aluminium hydride in 150 ml of absolute diethyl ether. Then 8.66 g (50 mmol) of 2-cyanomethylchroman in 70 ml of absolute tetrahydrofuran are added dropwise within a period of 20 minutes. The reaction mixture is stirred for a further 16 hours at room temperature and then carefully decomposed with 3.8 ml of water, 3.8 ml of sodium hydroxide solution (15% strength) and 11.4 ml of water. The precipitate formed is filtered off with suction and the filtrate is concentrated by evaporation in vacuo. The oily residue is dissolved in diethyl ether. The ethereal phase is washed with water, dried over sodium sulphate and concentrated by evaporation. 8.75 g (98.8%) of 2-(2-aminoethyl)chroman are obtained in the form of a colourless oil.

reactant | aluminium chloride | 16.5 mmol, 2.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminium hydride | 100 mmol, 3.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-cyanomethylchroman | 50 mmol, 8.66 g | C(#N)CC1OC2=CC=CC=C2CC1 | C11H11NO
reactant | sodium hydroxide | 3.8 ml | [OH-].[Na+]
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | water | 11.4 ml | O | H2O
solvent | water | 3.8 ml | O | H2O
product | 2-(2-aminoethyl)chroman | 8.75 g, 98.8% | NCCC1OC2=CC=CC=C2CC1 | C11H15NO
